US06235787B1
(E)-2′-(Cyanomethyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide
The (E)-2′-(cyanomethyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide used as the starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-(2R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)cambamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide by reaction with bromoacetonitrile.

reactant | (E)-2′-(cyanomethyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | C(#N)CN(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)S(=O)(=O)C | C25H36N4O6S
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (E)-2′-(Cyanomethyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | C(#N)CN(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NO)=O)=O)S(=O)(=O)C | C20H28N4O5S
